US08211925B2
{2-[3-phenoxy-5-((S)-2-methoxy-1-methyl-ethoxy)-benzoylamino]-thiazol-4-yl}-acetic acid ethyl ester was prepared from 3-{(1S)-2-methoxy-(methylethyl)oxy}-5-phenyloxy-benzoic acid (prepared in analogy to the method described in general synthetic descriptions, using phenylboronic acid in step D) and ethyl 2-aminothiazol-4-ylacetate following synthetic description A.

reactant | 3-{(1S)-2-methoxy-(methylethyl)oxy}-5-phenyloxy-benzoic acid | COC[C@@H](OC=1C=C(C(=O)O)C=C(C1)OC1=CC=CC=C1)C | C17H18O5
reactant | phenylboronic acid | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | ethyl 2-aminothiazol-4-ylacetate | NC=1SC=C(N1)CC(=O)OCC | C7H10N2O2S
product | {2-[3-phenoxy-5-((S)-2-methoxy-1-methyl-ethoxy)-benzoylamino]-thiazol-4-yl}-acetic acid ethyl ester | C(C)OC(CC=1N=C(SC1)NC(C1=CC(=CC(=C1)O[C@H](COC)C)OC1=CC=CC=C1)=O)=O | C24H26N2O6S
